US07378409B2
Preparation D11, Step 1: 2-amino-5-(trifluoromethyl)-benzamide (100 mg, 0.49 mmol, 1 eq) was suspended in THF (5 mL) at 0° C. then 1.000N NaOH (0.73 mL, 0.735 mmol, 1.5 eq) was added. Valeryl chloride (87 μL, 0.735 mmol, 1.5 eq) was slowly dripped into the mixture. After 4 hours, little reaction. Added more 1.000N NaOH (5.84 mL, 5.88 mmol, 12 eq) followed by more valeryl chloride (0.70 mL, 5.88 mmol, 12 eq). After the reaction was complete, added conc. HCl until pH=3. Stripped off the THF. Extracted the aqueous 3 times with ethyl acetate. The organic layers were combined, dried (sodium sulfate) and stripped to give an oil. Purified over silica gel in 9:1 to 1:1 hexanes/ethyl acetate to give 2-butyl-6-(trifluoromethyl)quinazolin-4-ol (110 mg) as a white solid. Yield=78%. LCMS detects (M+H)+=271.21.

reactant | 2-amino-5-(trifluoromethyl)-benzamide | 0.49 mmol, 100 mg, 1 eq | NC1=C(C(=O)N)C=C(C=C1)C(F)(F)F | C8H7F3N2O
reactant | NaOH | 0.735 mmol, 1.000N, 0.73 mL, 1.5 eq | [OH-].[Na+]
reactant | Valeryl chloride | 0.735 mmol, 87 μL, 1.5 eq | C(CCCC)(=O)Cl | C5H9ClO
reactant | NaOH | 5.88 mmol, 1.000N, 5.84 mL, 12 eq | [OH-].[Na+]
reactant | valeryl chloride | 5.88 mmol, 0.70 mL, 12 eq | C(CCCC)(=O)Cl | C5H9ClO
reactant | HCl | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-butyl-6-(trifluoromethyl)quinazolin-4-ol | 110 mg, Yield=78% | C(CCC)C1=NC2=CC=C(C=C2C(=N1)O)C(F)(F)F | C13H13F3N2O
